US08039472B2
To a solution of 2-(3-Isopropyl-ureido)-isonicotinic acid ethyl ester (130 mg, 0.52 mmol) in MeOH (5 ml) is added 2 M NaOH (2.5 ml) and the resulting solution is stirred for 1.5 hours at room temperature. The solvent is removed in vacuo and sat. aq. NH4Cl solution is added. The pH of the aqueous phase is adjusted to 1 using 1 M HCl and the product extracted into EtOAc, dried (MgSO4) the solvent removed in vacuo to afford 2-(3-Isopropyl-ureido)-isonicotinic acid as a white solid; [M+H]+ 224

reactant | 2-(3-Isopropyl-ureido)-isonicotinic acid ethyl ester | 0.52 mmol, 130 mg | C(C)OC(C1=CC(=NC=C1)NC(=O)NC(C)C)=O | C12H17N3O3
reactant | NaOH | 2 M, 2.5 ml | [OH-].[Na+]
solvent | MeOH | 5 ml | CO | CH4O
product | 2-(3-Isopropyl-ureido)-isonicotinic acid | C(C)(C)NC(NC=1C=C(C(=O)O)C=CN1)=O | C10H13N3O3
